US07501425B1
N-(4-Methoxybenzyl)-4-(isopropylamino)-2-(methylthio)pyrimidine-5-carboxamide
To a 0° C. suspension of 4-(isopropylamino)-2-(methylthio)pyrimidine-5-carboxylic acid chloride (as prepared in the above example, Preparation 16) in 30 mL of tetrahydrofuran is added 6.0 mL (46.3 mmol) of 4-methoxybenzylamine and 30 mL of tetrahydrofuran. The reaction suspension is allowed to warm briefly to room temperature, then stored at 0° C. overnight. The reaction mixture is diluted with dichloromethane, washed with 1N HCl and water. The combined aqueous phase is washed with dichloromethane. The combined organic phase is washed with a saturated solution of sodium bicarbonate and brine, dried over magnesium sulfate, filtered, and concentrated. The residue is crystallized from ethyl acetate/hexane to give 3.27 g (61%) of the title compound: mp 176-177° C.

reactant | 4-(isopropylamino)-2-(methylthio)pyrimidine-5-carboxylic acid chloride | C(C)(C)NC1=NC(=NC=C1C(=O)Cl)SC | C9H12ClN3OS
reactant | 4-methoxybenzylamine | 46.3 mmol, 6.0 mL | COC1=CC=C(CN)C=C1 | C8H11NO
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | N-(4-Methoxybenzyl)-4-(isopropylamino)-2-(methylthio)pyrimidine-5-carboxamide | 3.27 g, 61% | COC1=CC=C(CNC(=O)C=2C(=NC(=NC2)SC)NC(C)C)C=C1 | C17H22N4O2S
